US04025538
Preparation of N-(3-Hexyl)-4-allyl-3-methyl-2,6-dinitroaniline
One equivalent of 4-allyl-3-methyl-2,6-dinitrochlorobenzene is dissolved in three volumes of xylene containing two equivalents of 3-hexylamine. The mixture is refluxed for 5 hours and then poured into water. The organic phase is washed with 5% hydrochloric acid and then water, dried over calcium sulfate, and removed in vacuo to leave the above-named product.

reactant | 4-allyl-3-methyl-2,6-dinitrochlorobenzene | One equivalent | C(C=C)C1=C(C(=C(C(=C1)[N+](=O)[O-])Cl)[N+](=O)[O-])C | C10H9ClN2O4
reactant | xylene | two equivalents | C=1(C(=CC=CC1)C)C | C8H10
reactant | water | O | H2O
reactant | 3-hexylamine | CCC(CCC)N | C6H15N
product | N-(3-Hexyl)-4-allyl-3-methyl-2,6-dinitroaniline | CCC(CCC)NC1=C(C(=C(C=C1[N+](=O)[O-])CC=C)C)[N+](=O)[O-] | C16H23N3O4
